US05066680
To a solution of N-(4-diethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide (74 mg) in chloroform was added 4.1N methanolic hydrogen chloride (0.2 ml) and the mixture was evaporated in vacuo to give N-(4-diethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide hydrochloride (90 mg) as oil.

reactant | N-(4-diethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 74 mg | C(C)N(CC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O)CC | C22H32N2O2
reactant | hydrogen chloride | 4.1N, 0.2 ml | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-diethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide hydrochloride | 90 mg | Cl.C(C)N(CC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O)CC | InChI=1S/C22H32N2O2.ClH/c1-3-24(4-2)18-12-11-17-23-21(25)22(26,19-13-7-5-8-14-19)20-15-9-6-10-16-20;/h5,7-8,13-14,20,26H,3-4,6,9-10,15-18H2,1-2H3,(H,23,25);1H
